US04798620
A mixture of 4-ethoxycarbonylmethyl-7-nitro-2H-1,4-benzoxazin-3(4H)-one (30 g), 10% palladium-carbon (3 g) and ethanol (150 ml) was charged in an autoclave, and catalytically reduced under conditions of 20 kg/cm2 of hydrogen pressure and at a temperature of 60° C. to 70° C. Tetrahydrofuran was added thereto, and the liquor was filtered, then the filtrate was distilled under reduced pressure. Recrystallization of the resulting solid from ethanol gave the desired 7-amino-4-ethoxycarbonylmethyl-2H-1,4-benzoxazin-3(4H)-one (20 g). mp. 136°-137° C.

reactant | 4-ethoxycarbonylmethyl-7-nitro-2H-1,4-benzoxazin-3(4H)-one | 30 g | C(C)OC(=O)CN1C(COC2=C1C=CC(=C2)[N+](=O)[O-])=O | C12H12N2O6
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 3 g | [C].[Pd]
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-amino-4-ethoxycarbonylmethyl-2H-1,4-benzoxazin-3(4H)-one | 20 g | NC1=CC2=C(N(C(CO2)=O)CC(=O)OCC)C=C1 | C12H14N2O4
